US07612067B2
Preparation of 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid methyl ester
A solution of 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.00 g, 2.66 mmol) in CH3OH (12 mL), DMSO (18 mL), Et3N (2.0 mL) with Pd(OAc)2 (0.12 g, 0.538 mmol), dppf (0.937 g, 1.69 mmol) is reacted at CO atmosphere (100 psi) at 80° C. for 24 h. The reaction mixture is diluted with EtOAc (200 mL), washed with 0.1 M HCl (2×50 mL), brine (50 mL); dried with Na2SO4; filtered through silica gel and eluted with excess EtOAc. Purification of the crude material by chromatography gives the title compound (0.79 g, 2.12 mmol, 80%). 1H NMR (CDCl3): δ 0.89 (t, J=7.7 Hz, 6H), 1.75-1.93 (m, 4H), 2.15 (s, 3H), 2.50 (s, 3H), 2.53 (s, 3H), 3.32-3.42 (m, 1H), 3.91 (s, 3H), 6.72 (s, 1H), 7.73 (s, 1H). ES-MS (m/z): calcd for C20H25N3O2S (M+H)+: 372.5; found: 372.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.66 mmol, 1.00 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH3OH | 12 mL | CO | CH4O
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
solvent | Et3N | 2.0 mL | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.538 mmol, 0.12 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 1.69 mmol, 0.937 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid methyl ester | 2.12 mmol, 0.79 g, 80% | COC(=O)C=1SC(=C(C1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H25N3O2S
